US08227601B2
4-(7-chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a solution of 4-(4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile (17.3 mg, 0.05 mmol) in CH2Cl2 (5 mL) was added NCS (6.03 mg, 0.05 mmol) and the resultant mixture was refluxed for 16 h. After completion of the reaction, the solvent was concentrated and purified by preparative TLC, eluting with hexanes:ethyl acetate (3:1), to give the product as an off-white solid (3.4 mg, 6%).

reactant | 4-(4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 0.05 mmol, 17.3 mg | C1(=C(C(=CC(=C1)C)C)OC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CN2C)C | C23H21N5O
reactant | NCS | 0.05 mmol, 6.03 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 3.4 mg, 6% | ClC1=CN(C2=C1N=C(N=C2OC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2)C | C23H20ClN5O
